US03957786
To a solution of 23 g (1 g-atom) sodium metal in 500 ml absolute ethanol were added at room temperature 35 g (0.3 mole) butyl-urea and 48 g (0.3 mole) malonic acid-diethylester. The alcohol was then distilled off in an oil bath held at 120°C and the residue maintained at this temperature for about 16 hours. The residue was then cooled and dissolved in about 300 ml water, stirred with activated carbon and the solution filtered. The clear filtrate was acidified by the addition of concentrated hydrochloric acid to produce 38 g 1-butyl-barbituric acid, representing a yield of 68%. The substance had, after recrystallization from benzene, a melting point of 107°-108°C.

reactant | sodium | 23 g | [Na] | Na
reactant | butyl-urea | 0.3 mole, 35 g | C(CCC)NC(=O)N | C5H12N2O
reactant | malonic acid-diethylester | 0.3 mole, 48 g | C(C)OC(CC(=O)OCC)=O | C7H12O4
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 1-butyl-barbituric acid | 38 g, yield of 68% | C(CCC)N1C(=O)NC(=O)CC1=O | C8H12N2O3
